US06576642B2
A solution of 304 mg (1.4 mmol) of trans-1-benzyl-3,4-bis(aminomethyl)-pyrrolidine synthesized by the process described in Referential Example 1 in 1,4-dioxane (5 ml) was cooled in an ice bath. To the solution were added 4.2 ml (4.2 mmol) of a 1N aqueous solution of sodium hydroxide and 917 mg (4.2 mmol) of di-tert-butyl dicarbonate, and the mixture was stirred for 1 hour. The ice bath was removed, and the mixture was stirred for 24 hours at room temperature. The reaction mixture was then extracted with chloroform. An organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel to obtain 256 mg (yield: 44%) of trans-l-benzyl-3,4-bis(tert-butoxycarbonyl-aminomethyl)pyrrolidine as a colorless oil.

reactant | trans-1-benzyl-3,4-bis(aminomethyl)-pyrrolidine | 1.4 mmol, 304 mg | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)CN)CN | C13H21N3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 4.2 mmol, 917 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | trans-l-benzyl-3,4-bis(tert-butoxycarbonyl-aminomethyl)pyrrolidine | 256 mg, yield: 44% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C(N)C(=O)OC(C)(C)C)C(N)C(=O)OC(C)(C)C | C23H37N3O4
